US07872009B2
Step 1: Methyl 1-cyclopentyl-6-oxo-5-(1H-pyrazol-1-yl)-1,6-dihydropyridine-3-carboxylate
A mixture of methyl 5-bromo-1-cyclopentyl-6-oxo-1,6-dihydropyridine-3-carboxylate (300 mg, 1.00 mmol), pyrazole (23 mg, 0.34 mmol), K2CO3 (99 mg, 0.72 mmol), CuI (9.1 mg, 0.048 mmol), N1—N2-dimethylethane-1,2-diamine (5 uL, 0.048 mmol) in toluene (3 mL) was heated to 100° C. for 17 h. The mixture was brought to RT and quenched with saturated NH4Cl, brine, dried over MgSO4 and chromatographed on silica gel using 3:1 hexanes:ethylacetate to afford the title compound as a white solid. MS m/z: 288 (M+1).

reactant | methyl 5-bromo-1-cyclopentyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 1.00 mmol, 300 mg | BrC1=CC(=CN(C1=O)C1CCCC1)C(=O)OC | C12H14BrNO3
reactant | pyrazole | 0.34 mmol, 23 mg | N1N=CC=C1 | C3H4N2
reactant | K2CO3 | 0.72 mmol, 99 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | CuI | 0.048 mmol, 9.1 mg | [Cu]I
product | Methyl 1-cyclopentyl-6-oxo-5-(1H-pyrazol-1-yl)-1,6-dihydropyridine-3-carboxylate | C1(CCCC1)N1C=C(C=C(C1=O)N1N=CC=C1)C(=O)OC | C15H17N3O3
